US09326987B2
3-Fluoro-6-[2-methyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-(phenylsulfonyl)-1H-indazol-4-amine
3-Fluoro-1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-amine (660 mg), Pd(PPh3)4 (168 mg) and 4-bromo-2-methyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (613 mg) were weighed into a microwave vial and DMF (10 ml) was added. The mixture was heated to 120° C. overnight. The mixture was then cooled to RT and the solvent was removed in vacuo. The crude material was dried in a vacuum oven overnight. The resulting dark brown oil was purified by FlashMaster II. The crude material was dissolved in chloroform and added to the top of 2×100 g silica SPE cartridges that were subsequently eluted with 0-100% ethyl acetate:cyclohexane over 80 min. The product-containing fractions were combined and the solvent removed in vacuo to give the title compound, 357 mg as a cream solid.

reactant | 3-Fluoro-1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-amine | 660 mg | FC1=NN(C=2C=C(C=C(C12)N)[Sn](C)(C)C)S(=O)(=O)C1=CC=CC=C1
reactant | 4-bromo-2-methyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 613 mg | BrC1=C2C(=NC=C1)N(C(=C2)C)S(=O)(=O)C2=CC=CC=C2 | C14H11BrN2O2S
catalyst | Pd(PPh3)4 | 168 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Fluoro-6-[2-methyl-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-(phenylsulfonyl)-1H-indazol-4-amine | FC1=NN(C=2C=C(C=C(C12)N)C1=C2C(=NC=C1)N(C(=C2)C)S(=O)(=O)C2=CC=CC=C2)S(=O)(=O)C2=CC=CC=C2 | C27H20FN5O4S2
